US04440779
Ethyl 5,10-dihydro-1-methyl-10-oxo-1H-[2]benzoxepino[4,3-b]pyrrole-2-acetate (196 mg, 0.66 mmol) is dissolved in ethanol and 2.5 N aqueous sodium hydroxide (2 ml, 5 mmol) is added dropwise at reflux under nitrogen. The reaction is heated for an additional ten minutes, then the solution is cooled and diluted with water (5 ml). The resulting mixture is acidified with 2.5 N aqueous HCl (3 ml). The product separates as an oil, then solidifies on scratching. The solid is filtered, washed with water and dried to give 160 ml crude product. The product is recrystallized from ethanol to give 102 mg of 5,10-dihydro-1-methyl-10-oxo-1H-[2]benzoxepino[4,3-b]pyrrole-2-acetic acid, M.P. 114°-116° (dec).

reactant | Ethyl 5,10-dihydro-1-methyl-10-oxo-1H-[2]benzoxepino[4,3-b]pyrrole-2-acetate | 0.66 mmol, 196 mg | CN1C2=C(C=C1CC(=O)OCC)OCC1=C(C2=O)C=CC=C1 | C17H17NO4
reactant | sodium hydroxide | 5 mmol, 2.5 N, 2 ml | [OH-].[Na+]
reactant | HCl | 2.5 N, 3 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 5,10-dihydro-1-methyl-10-oxo-1H-[2]benzoxepino[4,3-b]pyrrole-2-acetic acid | 102 mg | CN1C2=C(C=C1CC(=O)O)OCC1=C(C2=O)C=CC=C1 | C15H13NO4
